US05994355
2-(3,5-Dichlorophenyl)-5-methoxy-2,3-dihydro-1,2,4-triazin-3-one (Compound No. 16)
In THF was dissolved 2.77 g of 2-(3,5-dichlorophenyl)-5-chloro-2,3-dihydro-1,2,4-triazin-3-one followed by addition of sodium methoxide in an equimolar amount to the starting compound, and the mixture was stirred at room temperature for 1 hour. After completion of this reaction, the reaction mixture was concentrated under reduced pressure and ice-water was added to the residue. The resulting crystals were collected by filtration, dried and dissolved in 100 ml of chloroform. The chloroform solution was dried over anhydrous magnesium sulfate, concentrated and purified by column chromatography (Merck Silica Gel 60; dichloromethane-methanol=10:1) to provide 0.4 g of white crystals (m.p. 164° C.).

reactant | 2-(3,5-dichlorophenyl)-5-chloro-2,3-dihydro-1,2,4-triazin-3-one | 2.77 g | ClC=1C=C(C=C(C1)Cl)N1N=CC(=NC1=O)Cl | C9H4Cl3N3O
reactant | sodium methoxide | C[O-].[Na+]
solvent | THF | C1CCOC1 | C4H8O
product | 2-(3,5-Dichlorophenyl)-5-methoxy-2,3-dihydro-1,2,4-triazin-3-one | 0.4 g | ClC=1C=C(C=C(C1)Cl)N1N=CC(=NC1=O)OC | C10H7Cl2N3O2
